US04766233
To a stirred mixture of 1.0 g (0.0031 mole) of 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3,3-dimethyl-1,2,4-triazolidin-5-one in 10 mL of p-dioxane was added 0.29 g (0.0031 mole) of pyruvic acid and one drop of concentrated sulfuric acid. The mixture was stirred at room temperature for one hour, then an additional 0.25 g (0.0029 mole) of pyruvic acid was added. The mixture was heated at 90° C. for three hours, then poured into water. The mixture was extracted with ethyl acetate, and the solvent was evaporated from the extract under reduced pressure to give an oil. The oil was purified by thin-layer preparative chromatography on silica gel, eluting with ethyl acetate:heptane (1:1). Extraction of the appropriate bands gave 0.6 g of 2-[2,4-dichloro-5-(1-methylethoxy)phenyl]-6-methyl-1,2,4-triazine-3,5(2H,4H)-dione as a solid (mp 163°-164° C.), Compound 10 in the tables.

reactant | 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3,3-dimethyl-1,2,4-triazolidin-5-one | 0.0031 mole, 1.0 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1NC(NC1=O)(C)C | C13H17Cl2N3O2
reactant | pyruvic acid | 0.0031 mole, 0.29 g | C(C(=O)C)(=O)O | C3H4O3
reactant | pyruvic acid | 0.0029 mole, 0.25 g | C(C(=O)C)(=O)O | C3H4O3
reactant | water | O | H2O
solvent | p-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2-[2,4-dichloro-5-(1-methylethoxy)phenyl]-6-methyl-1,2,4-triazine-3,5(2H,4H)-dione | 0.6 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(C(NC1=O)=O)C | C13H13Cl2N3O3
